US07728030B2
N-[(1S)-2-(3-Fluorophenyl)-2-{[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy}-1-(hydroxymethyl)ethyl]-2-methoxyacetamide
N-[(1S)-2-(3-Fluorophenyl)-2-{[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy}-1-(benzyloxymethyl)ethyl]-2-methoxyacetamide (15 mg, 0.027 mmol) is dissolved in 10 mL ethanol and Pd (10% on charcoal, 0.29 mg, 0.0027 mmol) is added. The reaction mixture is charged with hydrogen and stirred for 2 h at r.t. After filtration of the reaction mixture via a glass microfibre filter, the solvent evaporated and the residue purified by chromatography (silicagel, eluents: ethylacetate/hexane). 7.5 mg (59.6%) of the title compound as a mixture of stereoisomers are obtained.

reactant | N-[(1S)-2-(3-Fluorophenyl)-2-{[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy}-1-(benzyloxymethyl)ethyl]-2-methoxyacetamide | 0.027 mmol, 15 mg | FC=1C=C(C=CC1)C([C@H](COCC1=CC=CC=C1)NC(COC)=O)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C32H29F2N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd | 0.0027 mmol, 0.29 mg | [Pd] | Pd
product | N-[(1S)-2-(3-Fluorophenyl)-2-{[1-(4-fluorophenyl)-1H-indazole-5-yl]oxy}-1-(hydroxymethyl)ethyl]-2-methoxyacetamide | FC=1C=C(C=CC1)C([C@H](CO)NC(COC)=O)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C25H23F2N3O4
